US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate
Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (0.112 g, 0.24 mmol) was suspended in methanol (2 ml) and tetrahydrofuran (3 ml) added to dissolve the reactant. The reaction mixture was cooled to 0° C. in an ice bath and sodium borohydride (0.027 g, 0.72 mmol) added portionwise. Stirred under argon for 2-3 hours at 0° C. Further sodium borohydride was added to the reaction to push it to completion. The reaction mixture was evaporated to a solid and partitioned between EtOAc and ammonium chloride (saturated). The aqueous layer was extracted with EtOAc (×2) and the combined organics washed with brine and dried over MgSO4. Solvent was evaporated to give the title product as a gummy residue, which was triturated with hexane to afford a solid (0.111 g, 0.23 mmol).

reactant | Ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 0.24 mmol, 0.112 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H24FNO6
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.72 mmol, 0.027 g | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1)CC(=O)OCC)F)O)OCC)C=CC=C2 | C26H26FNO6
